US08252825B2
Step C: 1-[({[(4R,5R)-4,5-bis(nitrooxy)hexyl]oxy}carbonyl)oxy]ethyl 2-ethoxy-1-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylate
A methanol (30 mL) suspension of 1-[({[(4R,5R)-4,5-bis(nitrooxy)hexyl]oxy}carbonyl)oxy]ethyl 2-ethoxy-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylate (2.47 g, 2.53 mmol) was heated to 70° C. for 2 hours. The reaction mixture was concentrated in vacuo, and the residue was purified by column chromatography on silica gel, eluting with 3-9% methanol/dichloromethane to give the title compound. 1H NMR (500 MHz, CD3CN) δ 7.71 (d, J=7.6 Hz, 1H), 7.61 (dt, J=1.1, 7.6 Hz, 1H), 7.48-7.56 (m, 3H), 7.42 (d, J=7.6 Hz, 1H), 7.12 (t, J=7.9 Hz, 1H), 6.96 (d, J=8.3 Hz, 2H), 6.89 (d, J=8.2 Hz, 2H), 6.78 (q, J=5.4 Hz, 1H), 5.56 (d, J=16.7 Hz, 1H), 5.53 (d, J=16.7 Hz, 1H), 5.24-5.40 (m, 2H), 4.44-4.58 (m, 2H), 4.06-4.18 (m, 2H), 1.7-1.9 (m, 4H), 1.36-1.44 (m, 6H), 1.34 (d, J=6.2 Hz, 3H); LC-MS: m/z 735.3 (M+H).

reactant | 1-[({[(4R,5R)-4,5-bis(nitrooxy)hexyl]oxy}carbonyl)oxy]ethyl 2-ethoxy-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylate | 2.53 mmol, 2.47 g | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=CC=C2)C(=O)OC(C)OC(=O)OCCC[C@H]([C@@H](C)O[N+](=O)[O-])O[N+](=O)[O-] | C52H48N8O12
solvent | methanol | 30 mL | CO | CH4O
product | 1-[({[(4R,5R)-4,5-bis(nitrooxy)hexyl]oxy}carbonyl)oxy]ethyl 2-ethoxy-1-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylate | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OC(C)OC(=O)OCCC[C@H]([C@@H](C)O[N+](=O)[O-])O[N+](=O)[O-] | C33H34N8O12
